US05719157
[6,7-Dimethoxy-4-(3,4-dimethoxyphenyl)quinazolin-2-yl]methyltriphenylphosphonium chloride (9.1 g) was added at room temperature to a solution of sodium ethoxide in ethanol (prepared from Na (0.394 g) and ethanol (100 ml)). Then a solution of 2-formyl-1-methylimidazole (1.7 g) in ethanol (10 ml) was added dropwise. The mixture was stirred at room temperature for 3 hours, poured into water and extracted with chloroform. The chloroform layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform/methanol (20/1, v/v) gave (E)-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[2-(1-methylimidazol-2-yl)vinyl]quinazoline (5.1 g, 82%) which was then recrystallized from ethanol-chloroform.

reactant | [6,7-Dimethoxy-4-(3,4-dimethoxyphenyl)quinazolin-2-yl]methyltriphenylphosphonium chloride | 9.1 g | [Cl-].COC=1C=C2C(=NC(=NC2=CC1OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 2-formyl-1-methylimidazole | 1.7 g | C(=O)C=1N(C=CN1)C | C5H6N2O
reactant | water | O | H2O
solvent | ethanol | 100 ml, 0.394 g | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (E)-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[2-(1-methylimidazol-2-yl)vinyl]quinazoline | 5.1 g, 82% | COC=1C=C2C(=NC(=NC2=CC1OC)\C=C\C=1N(C=CN1)C)C1=CC(=C(C=C1)OC)OC | C24H24N4O4
